US08242104B2
Methyl 2-cyano-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate (220 mg, 0.82 mmol) was dissolved in 4.0 ml of dimethyl sulfoxide and treated with a solution of potassium carbonate (136 mg, 0.980 mmol) in water (1.60 mL, 88.8 mmol). After cooling at 0° C., hydrogen peroxide (0.751 mL, 9.80 mmol) was added slowly. The mixture was stirred at room temperature for 2 hours. The mixture was diluted with 20 ml of water and extracted with ethyl acetate (3×20 ml). The organic extracts were washed with 5% sodium thiosulfate, sat. NaHCO3, brine, dried over sodium sulfate and concentrated to give 180 mg (77%) of crude methyl 2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate. MS (ESI+): 288.0.

reactant | Methyl 2-cyano-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | 0.82 mmol, 220 mg | C(#N)C=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)OC)C1 | C14H11N3O3
reactant | potassium carbonate | 0.980 mmol, 136 mg | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen peroxide | 9.80 mmol, 0.751 mL | OO | H2O2
solvent | dimethyl sulfoxide | 4.0 ml | CS(=O)C | C2H6OS
solvent | water | 20 ml | O | H2O
solvent | water | 88.8 mmol, 1.60 mL | O | H2O
product | methyl 2-carbamoyl-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | 180 mg, 77% | C(N)(=O)C=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)OC)C1 | C14H13N3O4
